US07220775B2
A solution of 2,4,6-trichloropyrimidine (5.00 g), 3,4-dichloroaniline (4.45 g, 1 equivalent) in 1,4-dioxane (20 mL) and N,N-diisopropylethylamine (10 mL) was heated at reflux with stirring for 3 hours. The solvent was removed and the crude material was purified by flash chromatography on silica gel. The column was eluted with a gradient of cyclohexane to ethyl acetate/cyclohexane (1:9). The eluent was removed, giving 4,6-dichloro-N-(3,4-dichlorophenyl)-2-pyrimidinamine (1.83 g, 58%, Rf=0.39 in ethyl acetate/cyclohexane, 2:3).

reactant | 2,4,6-trichloropyrimidine | 5.00 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 3,4-dichloroaniline | 4.45 g, 1 equivalent | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | N,N-diisopropylethylamine | 10 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4,6-dichloro-N-(3,4-dichlorophenyl)-2-pyrimidinamine | 1.83 g, 58% | ClC1=NC(=NC(=C1)Cl)NC1=CC(=C(C=C1)Cl)Cl | C10H5Cl4N3
